US07514473B2
(a) 4-bromo-2,3-dichlorophenol
In a 250 mL round bottom flask 10 g of 2,3-dichlorophenol was dissolved in a solvent mixture of glacial acetic acid (16 mL) and chloroform (4 mL) and cooled to 10° C. To this was added bromine (3.45 mL) in 15 mL of glacial acetic acid dropwise while maintaining the temperature. The reaction was vigorously stirred while adding bromine and continued stirring vigorously 0.5 h after addition was finished. At this time reaction mixture was poured into a flask containing 60 mL of water and 30 mL of dichloromethane. Organic layer was separated and aqueous layer was extracted with dichloromethane (3×50 mL). The oraganic layers were combined and washed with Sat. sodium bicarbonate (3×100 mL) and brine (100 mL) and dried over sodium sulfate. The crude product (9.65 g) was carried in to the next step without any purification. 1H-NMR (400 MHz, CDCl3) : 7.47 and 6.89 (ABq, 2H), 5.69 (brs, 1H).

reactant | bromine | 3.45 mL | BrBr | Br2
reactant | water | 60 mL | O | H2O
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | 2,3-dichlorophenol | 10 g | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2,3-dichlorophenol | BrC1=C(C(=C(C=C1)O)Cl)Cl | C6H3BrCl2O
